US07205306B2
5-Bromo-3-(7-chloro-6-fluoro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dibromo-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone and 7-chloro-6-fluoro-5-methoxyindoline as the starting materials. mp 150–152° C.; 1H NMR (300 MHz, CDCl3): δ 7.09 (s, 1 H), 6.81 (d, J=7.3 Hz, 1 H), 4.95–4.90 (m, 1 H), 4.35 (t, J=8.1 Hz, 2 H), 3.89 (s, 3 H), 3.67 (dd, J=10.6, 5.8 Hz, 1 H), 3.56 (dd, J=10.6, 3.5 Hz, 1 H), 3.36 (s, 3 H), 3.09 (t, J=8.4 Hz, 2 H), 1.96–1.77 (m, 2 H), 0.94 (t, J=7.5 Hz, 3 H); HRMS (ESI) calcd for C18H21N3O3BrClF (M+H)+: 460.0439; found m/z 460.0460.

reactant | 3,5-dibromo-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | BrC=1C(N(C=C(N1)Br)[C@H](CC)COC)=O | C9H12Br2N2O2
reactant | 7-chloro-6-fluoro-5-methoxyindoline | ClC=1C(=C(C=C2CCNC12)OC)F | C9H9ClFNO
product | 5-Bromo-3-(7-chloro-6-fluoro-5-methoxy-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | BrC=1N=C(C(N(C1)[C@H](CC)COC)=O)N1CCC2=CC(=C(C(=C12)Cl)F)OC | C18H20BrClFN3O3
